US03984465
Step C: (1-Oxo-2,2-diethyl-6,7-dichloro-5-indanyloxy)acetic Acid
A stirred mixture of 2,2-diethyl-5-hydroxy-6,7-dichloro-1-indanone (3.6 g., 0.013 mole), potassium carbonate (4.2 g.) and ethyl bromoacetate (5 g.) in DMF (40 ml.) is warmed in an inert atmosphere at 55° C. for one hour, then treated with water (40 ml.) and 10N sodium hydroxide (6 ml.) and heated on a steam bath for 1.5 hours. The reaction mixture is poured into ice water (200 ml.), acidified, then extracted with ether, washed with water and dried over magnesium sulfate. Following evaporation of the ether the residue is crystallized from butyl chloride affording 1.3 g. of (1-oxo-2,2-diethyl-6,7-dichloro-5-indanyloxy)acetic acid which melts at 111° C.

reactant | 2,2-diethyl-5-hydroxy-6,7-dichloro-1-indanone | 0.013 mole, 3.6 g | C(C)C1(C(C2=C(C(=C(C=C2C1)O)Cl)Cl)=O)CC | C13H14Cl2O2
reactant | potassium carbonate | 4.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 5 g | BrCC(=O)OCC | C4H7BrO2
reactant | sodium hydroxide | 10N, 6 ml | [OH-].[Na+]
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | water | 40 ml | O | H2O
product | (1-Oxo-2,2-diethyl-6,7-dichloro-5-indanyloxy)acetic Acid | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(CC)CC | C15H16Cl2O4
